US04783455
10-Acetamido-10-(3-chlorophenyl)-2,3,4,10-tetrahydropyrimido[1,2-a]indole
Concentrated sulphuric acid (12 ml) was added dropwise over 5 minutes to vigorously stirred acetonitrile (24 ml) at 0°-5°. The resulting colourless solution was treated in one portion with 10-(3-chlorophenyl)-2,3,4,10-tetrahydropyrimido[1,2-a]indol -10-ol (3.0 g). The mixture was immediately stirred and heated at 50°-60° whereupon solution occurred within 5 minutes. After 1 hour, the solution was poured onto ice (100 ml) and the mixture was basified with saturated aqueous ammonia (90 ml) and extracted with dichloromethane (3×60 ml). The extracts were dried (MgSO4) and evaporated in vacuo. The residue was triturated with ethyl acetate to give light brown crystals which were purified by flash chromatography (Al2O3, ethyl acetate), trituration with ethanol-ether (1:1), and washing with ether to give the title compound free base as a colourless powder.

reactant | sulphuric acid | 12 ml | S(O)(O)(=O)=O | H2O4S
reactant | 10-(3-chlorophenyl)-2,3,4,10-tetrahydropyrimido[1,2-a]indol -10-ol | 3.0 g | ClC=1C=C(C=CC1)C1(C=2N(C=3C=CC=CC13)CCCN2)O | C17H15ClN2O
reactant | ammonia | 90 ml | N | H3N
reactant | acetonitrile | 24 ml | C(C)#N | C2H3N
product | 10-Acetamido-10-(3-chlorophenyl)-2,3,4,10-tetrahydropyrimido[1,2-a]indole | C(C)(=O)NC1(C=2N(C=3C=CC=CC13)CCCN2)C2=CC(=CC=C2)Cl | C19H18ClN3O
